US05219847
I-8-1: Synthesis of 6-hexyloxy-α-picoline
To a solution of 12.0 g (0.11 mol) of 6-hydroxy-2-methylpyridine (commercially available) and 18.2 g (0.11 mol) of n-hexyl bromide dissolved in 100 ml of N,N-diethylformamide was added 15.2 g (0.11 mol) of potassium carbonate, and the mixture was stirred at 80° to 90° C. for 8 hours. Into the resultant mixture was poured 300 ml of ice-water, the mixture was extracted with ethyl acetate, and the oily extract obtained was separated by silica gel column chromatography (ethyl acetate:hexane=1:9) to give 12.1 g of an oily substance (yield 57.0%).

reactant | 6-hydroxy-2-methylpyridine | 0.11 mol, 12.0 g | OC1=CC=CC(=N1)C | C6H7NO
reactant | n-hexyl bromide | 0.11 mol, 18.2 g | C(CCCCC)Br | C6H13Br
reactant | potassium carbonate | 0.11 mol, 15.2 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-diethylformamide | 100 ml | C(C)N(C=O)CC | C5H11NO
product | 6-hexyloxy-α-picoline | yield 57.0% | C(CCCCC)OC1=CC=CC(=N1)C | C12H19NO
